* Created by KLayout
*** My special header ***

* cell inverter_makoto56
* pin VSS
* pin Vdd
* pin vin
* pin vout
.SUBCKT inverter_makoto56 VSS Vdd vin vout
* device instance $1 r0 *1 6.3,-1.1 PMOS
XM$1 Vdd vin vout Vdd PMOS L=1u W=8.2u AS=22.96p AD=22.96p PS=22u PD=22u
* device instance $2 r0 *1 6.3,-26.4 NMOS
XM$2 VSS vin vout VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_makoto56
