* Created by KLayout
*** My special header ***

* cell inverter
* pin IN
* pin OUT
* pin VDD
* pin VSS
.SUBCKT inverter IN OUT VDD VSS
* device instance $1 r180 *1 2.7,-51.8 PMOS
XM$1 OUT IN VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r180 *1 2.9,-73 NMOS
XM$2 OUT IN VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter
