* Created by KLayout
*** My special header ***

* cell inverter
* pin A
* pin Q
* pin VDD
* pin VSS
.SUBCKT inverter A Q VDD VSS
* device instance $1 r0 *1 -2,0 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=16.4u AS=35.26p AD=35.26p PS=33.2u PD=33.2u
* device instance $3 r0 *1 -2,-40.4 NMOS
XM$3 VSS A Q VSS NMOS L=1u W=6.8u AS=14.62p AD=14.62p PS=18.8u PD=18.8u
.ENDS inverter
