* Created by KLayout
*** My special header ***

* cell inverter
* pin A
* pin Q
* pin VDD
* pin VSS
.SUBCKT inverter A Q VDD VSS
* device instance $1 r0 *1 52.5,7 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=163.2u AS=271.32p AD=271.32p PS=210.2u PD=210.2u
* device instance $9 r0 *1 52.5,-31.8 NMOS
XM$9 VSS A Q VSS NMOS L=1u W=54.4u AS=90.44p AD=90.44p PS=87.8u PD=87.8u
.ENDS inverter
