** sch_path: /home/jijinbei/inverter/inverter.sch
.subckt inverter A Q VSS VDD
*.PININFO A:I Q:O VSS:B VDD:B
MXM1 Q A VSS VSS NMOS w=54.4u l=1u
MXM2 Q A VDD VDD PMOS w=163.2u l=1u
.ends
