* Created by KLayout
*** My special header ***

* cell ys4i_inv
* pin VSS
.SUBCKT ys4i_inv VSS
* device instance $1 r0 *1 20,18 PMOS
XM$1 \$6 \$2 \$1 \$4 PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 20,-4 NMOS
XM$2 \$5 \$2 \$1 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS ys4i_inv
